US07932272B2
2-Aminopyridine-3-carbaldehyde
To a mixture of (2-aminopyridin-3-yl)-methanol described in Preparation Example J-3 (130 mg, 1.1 mmol) and dichloromethane (10 mL) was added manganese dioxide (1.3 g, 15 mmol) at room temperature, and the solution was stirred overnight. The reaction solution was filtered through Celite pad, then, the solvent was evaporated in vacuo, and the title compound (108 mg, 0.88 mmol, 83%) was obtained as a white solid.

reactant | (2-aminopyridin-3-yl)-methanol | NC1=NC=CC=C1CO | C6H8N2O
catalyst | manganese dioxide | 15 mmol, 1.3 g | [O-2].[O-2].[Mn+4]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-Aminopyridine-3-carbaldehyde | 0.88 mmol, 108 mg, 83% | NC1=NC=CC=C1C=O | C6H6N2O
